US08404684B2
Step 3) (3-Amino-pyrazol-1-yl)-acetic acid tert-butyl ester
Hydrazine hydrate (0.27 ml, 6.69 mmol) is added to a stirred solution of [3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyrazol-1-yl]-acetic acid tert-butyl ester (2.18 g, 6.69 mmol) in ethanol (12 ml). The reaction is stirred at 90° C. for 2.5 hours. When cool, the reaction is diluted with ethanol (50 ml) and the white precipitate is removed by filtration, washing with more ethanol (250 ml). The combined filtrate is evaporated to dryness and dichloromethane (100 ml) is added. After filtering again, the filtrate is evaporated to give the titled compound as a colourless oil.

reactant | Hydrazine hydrate | 6.69 mmol, 0.27 ml | O.NN
reactant | [3-(1,3-dioxo-1,3-dihydro-isoindol-2-yl)-pyrazol-1-yl]-acetic acid tert-butyl ester | 6.69 mmol, 2.18 g | C(C)(C)(C)OC(CN1N=C(C=C1)N1C(C2=CC=CC=C2C1=O)=O)=O | C17H17N3O4
solvent | ethanol | 12 ml | C(C)O | C2H6O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | (3-Amino-pyrazol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1N=C(C=C1)N)=O | C9H15N3O2
